US07723352B2
To a 0 C solution of 2-benzyl-4-methoxybenzoic acid (5 g) in 250 mL CH2Cl2 were added a catalytic amount of DMF and a solution of oxalyl chloride (2 mL) in 40 mL CH2Cl2. The reaction was warmed to room temp and stirred overnight, then concentrated to dryness and azeotroped from toluene (2×). The residue was dissolved in 50 mL THF and added dropwise to a 0 C solution of ethylamine (10 mL, 70% aqueous solution) in 200 mL THF. The reaction was warmed to room temp and stirred for 2 h, then quenched with saturated aqueous KHSO4 solution and extracted with EtOAc (2×). The organic solutions were dried (Na2SO4) and concentrated, then triturated with hexanes to give 5.2 g of 2-benzyl-N-ethyl-4-methoxybenzamide.

reactant | 2-benzyl-4-methoxybenzoic acid | 5 g | C(C1=CC=CC=C1)C1=C(C(=O)O)C=CC(=C1)OC | C15H14O3
reactant | DMF | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-benzyl-N-ethyl-4-methoxybenzamide | 5.2 g | C(C1=CC=CC=C1)C1=C(C(=O)NCC)C=CC(=C1)OC | C17H19NO2
